US05712298
A. 4-Difluoromethoxy-3-methoxybenzoic acid
A solution of 7.3 g of 80% strength sodium chlorite in 15 ml of water is added dropwise with continuous stirring to a mixture of 10.0 g of 4-difluoromethoxy-3-methoxybenzaldehyde, 6.5 g of sulphamic acid and 50 ml of glacial acetic acid. The internal temperature is kept between 30° and 35° C. by cooling with ice water. After dropwise addition is complete, the mixture is stirred for a further 1 h and then diluted with water. The precipitated 4-difluoromethoxy-3-methoxybenzoic acid is filtered off with suction, washed with water, dried in vacuo and crystallized from acetonitrile/petroleum ether (b.p. 40°) 2/8. Yield 7.1 g; m.p. 170° C.

reactant | sodium chlorite | Cl(=O)[O-].[Na+]
reactant | 4-difluoromethoxy-3-methoxybenzaldehyde | 10.0 g | FC(OC1=C(C=C(C=O)C=C1)OC)F | C9H8F2O3
reactant | sulphamic acid | 6.5 g | S(N)(O)(=O)=O | H3NO3S
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 15 ml | O | H2O
product | 4-Difluoromethoxy-3-methoxybenzoic acid | FC(OC1=C(C=C(C(=O)O)C=C1)OC)F | C9H8F2O4
